US06908936B2
2-[2-(1H-Benzotriazol-1-ylmethyl)-1H-benzimidazol-1-yl]-ethyl Trimethylammonium Iodide
The free base of 1-[1-(N,N-dimethyl-aminoethyl)-1H-benzimidazol-2-ylmethyl]-1H-benzotriazole (100 mg, 0.312 mmol) was dissolved in anhydrous acetone. Methyl iodide (44 mg, 0.312 mmol) was added with stirring under N2 at room temperature. After 3 hours, the white solid was filtered and dried under vacuum to give 19.5 mg (14%) of the title compound as a white solid.

reactant | 1-[1-(N,N-dimethyl-aminoethyl)-1H-benzimidazol-2-ylmethyl]-1H-benzotriazole | 0.312 mmol, 100 mg | CN(C)CCN1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C18H20N6
reactant | Methyl iodide | 0.312 mmol, 44 mg | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 2-[2-(1H-Benzotriazol-1-ylmethyl)-1H-benzimidazol-1-yl]-ethyl Trimethylammonium Iodide | 19.5 mg, 14% | [I-].N1(N=NC2=C1C=CC=C2)CC2=NC1=C(N2CC[N+](C)(C)C)C=CC=C1 | InChI=1S/C19H23N6.HI/c1-25(2,3)13-12-23-17-10-6-4-8-15(17)20-19(23)14-24-18-11-7-5-9-16(18)21-22-24;/h4-11H,12-14H2,1-3H3;1H/q+1;/p-1
